US04912226
The Example 1 procedure wherein 1-(3,5-difluorobenzyl)-2-mercaptoimidazole is replaced by 1-(4-methoxyphenyl)-2-mercaptoimidazole yields 2-(2-aminoethylthio)-1-(4-methoxyphenyl)imidazole.

reactant | 1-(3,5-difluorobenzyl)-2-mercaptoimidazole | FC=1C=C(CN2C(=NC=C2)S)C=C(C1)F | C10H8F2N2S
reactant | 1-(4-methoxyphenyl)-2-mercaptoimidazole | COC1=CC=C(C=C1)N1C(=NC=C1)S | C10H10N2OS
product | 2-(2-aminoethylthio)-1-(4-methoxyphenyl)imidazole | NCCSC=1N(C=CN1)C1=CC=C(C=C1)OC | C12H15N3OS
